US07667049B2
Synthesis of Benzyl (3S,4R)-3-cyclopropylaminomethyl-4-hydroxypyrrolidine-1-carboxylate hydrochloride
4.86 L of ethyl acetate was added to 345 g of benzyl (3S,4R)-3-cyclopropylaminomethyl-4-hydroxypyrrolidine-1-carboxylate (1.20 mol) to dissolve the compound. While this solution was stirred, 1.04 L of a 10%% hydrogen chloride methanol solution was added at an internal temperature of 21° C. Following the formation of crystals (internal temperature of 20° C.), the mixture was kept stirred for 15 minutes. Subsequently, 9.72 L of diisopropyl ether was added slowly and the mixture was further stirred for 30 minutes. The resulting crystals were collected by filtration, washed with 0.52 L of ethyl acetate, and drained for 30 minutes. The product was then dried by air-blowing at 60° C. for 4 hours to give 350 g of the title compound as white powder crystals (90% yield in the 2 steps).

reactant | benzyl (3S,4R)-3-cyclopropylaminomethyl-4-hydroxypyrrolidine-1-carboxylate | 1.20 mol, 345 g | C1(CC1)NC[C@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1 | C16H22N2O3
reactant | hydrogen chloride methanol | CO.Cl
reactant | diisopropyl ether | 9.72 L | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | 4.86 L | C(C)(=O)OCC | C4H8O2
product | Benzyl (3S,4R)-3-cyclopropylaminomethyl-4-hydroxypyrrolidine-1-carboxylate hydrochloride | 350 g, 90% yield | Cl.C1(CC1)NC[C@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1 | InChI=1S/C16H22N2O3.ClH/c19-15-10-18(9-13(15)8-17-14-6-7-14)16(20)21-11-12-4-2-1-3-5-12;/h1-5,13-15,17,19H,6-11H2;1H/t13-,15-;/m0./s1
